US04939253
(B) 4-Chloro-DL-threoninamide, hydrochloride
5-(Chloromethyl)-4,5-dihydro-4-oxazolecarboxamide was dissolved in 1500 ml of 2N hydrochloric acid and warmed to 50° C. for 2 hours. The hydrochloric acid was removed in vacuo and the residue was triturated with isopropanol to yield the title compound as brownish crystals; yield 133.9 g.

reactant | 5-(Chloromethyl)-4,5-dihydro-4-oxazolecarboxamide | ClCC1C(N=CO1)C(=O)N | C5H7ClN2O2
solvent | hydrochloric acid | 2N, 1500 ml | Cl | ClH
product | 4-Chloro-DL-threoninamide, hydrochloride | Cl.ClCC(C(N)C(=O)N)O | InChI=1S/C4H9ClN2O2.ClH/c5-1-2(8)3(6)4(7)9;/h2-3,8H,1,6H2,(H2,7,9);1H
